US06150373
650 μl (8.8 mmol) of thionyl chloride was added dropwise to a stirred solution of 1 g (5.8 mmol) of 3-(chloromethyl)benzoic acid in 40 ml of methanol at 0° C. under a nitrogen atmosphere, then stirred at room temperature overnight. The solvent was evaporated, the residue dissolved in dichloromethane (30 ml), washed with saturated aqueous sodium bicarbonate (2×40 ml), brine (40 ml), dried over magnesium sulfate, filtered and evaporated to give 0.94 g (88%) of methyl-3-(chloromethyl)benzoate as a colorless mobile liquid.

reactant | thionyl chloride | 8.8 mmol, 650 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(chloromethyl)benzoic acid | 5.8 mmol, 1 g | ClCC=1C=C(C(=O)O)C=CC1 | C8H7ClO2
reactant | methanol | 40 ml | CO | CH4O
product | methyl-3-(chloromethyl)benzoate | 0.94 g, 88% | COC(C1=CC(=CC=C1)CCl)=O | C9H9ClO2
